US08802668B2
7-(2,5-dihydro-4-imidazo[1,2-a]pyridine-3-yl-2,5-dioxo-1H-pyrrol-3-yl)-9-fluoro-1,2,3,4-tetrahydro-2-(1-piperidinyl-carbonyl)-pyrrolo[3,2,1-jk][1,4]benzodiazepine dihydrate
Heat a slurry of 7-(2,5-dihydro-4-imidazo[1,2-a]pyridine-3-yl-2,5-dioxo-1H-pyrrol-3-yl)-9-fluoro-1,2,3,4-tetrahydro-2-(1-piperidinyl-carbonyl)-pyrrolo[3,2,1-jk][1,4]benzodiazepine ethanolate (200.8 mg) in water (25 mL) to 75° C. for 0.67 hours. Add 0.72 mL of 1N HCl and continue to heat for 1.75 hours. Add 0.1N NaOH in 1 mL increments every 5 minutes until 7.2 mL have been added. After the last addition, allow the suspension to remain at 75° C. for 0.67 hours and then allow the suspension to cool to room temperature. Collect the solid using vacuum filtration through Whatman #1 paper, rinse with 20 mL deionized water and allow to dry loosely covered for 2 days.

reactant | 7-(2,5-dihydro-4-imidazo[1,2-a]pyridine-3-yl-2,5-dioxo-1H-pyrrol-3-yl)-9-fluoro-1,2,3,4-tetrahydro-2-(1-piperidinyl-carbonyl)-pyrrolo[3,2,1-jk][1,4]benzodiazepine ethanolate | 200.8 mg | N=1C=C(N2C1C=CC=C2)C2=C(C(NC2=O)=O)C2=NCCN1C3=C2C=C(C=C3C(C1C(=O)N1CCCCC1)CC[O-])F
reactant | HCl | 1N, 0.72 mL | Cl | ClH
reactant | NaOH | 0.1N | [OH-].[Na+]
solvent | water | 25 mL | O | H2O
product | 7-(2,5-dihydro-4-imidazo[1,2-a]pyridine-3-yl-2,5-dioxo-1H-pyrrol-3-yl)-9-fluoro-1,2,3,4-tetrahydro-2-(1-piperidinyl-carbonyl)-pyrrolo[3,2,1-jk][1,4]benzodiazepine dihydrate | O.O.N=1C=C(N2C1C=CC=C2)C2=C(C(NC2=O)=O)C2=NCCN1C3=C2C=C(C=C3CC1C(=O)N1CCCCC1)F | InChI=1S/C28H25FN6O3.2H2O/c29-17-12-16-13-19(28(38)33-8-3-1-4-9-33)35-11-7-30-24(18(14-17)25(16)35)23-22(26(36)32-27(23)37)20-15-31-21-6-2-5-10-34(20)21;;/h2,5-6,10,12,14-15,19H,1,3-4,7-9,11,13H2,(H,32,36,37);2*1H2
